US08476296B2
To a solution of (2S,3R)-N-2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]oct-3-yl)-3,5-difluorobenzamide (993 mg, 2.80 mmol) water (5 mL) was added chloroform (15 mL). The pH of the aqueous layer was adjusted to pH=10-11 with 10 weight % sodium hydroxide. The biphasic mixture was shaken vigorously, and the layers were allowed to separate. The chloroform layer was isolated, and the aqueous layer was extracted once more with chloroform (9 mL). The combined chloroform layers were washed once with water (7 mL), filtered over a bed of anhydrous magnesium sulfate and concentrated in vacuo to afford a colorless, clear oil with a tendency to foam. The material was treated with methyl tert-butyl ether (MTBE, 10-15 mL) followed by solvent distillation in vacuo; this process was repeated once more. The material was dissolved in MTBE (10-15 mL) and heptane was added until a white cloudiness appeared. At this point a slow distillation of volatiles at 50-55° C. at ambient pressure was started and additional solid material separated out. The distillation was halted and the material was collected by filtration and washed with a small amount of heptane. The material was dried in vacuo at 55° C. under a vacuum/nitrogen bleed for 60 h and at 70-85° C. for 40 h to afford 400 mg of (2S,3R)-N-2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]oct-3-yl)-3,5-difluorobenzamide mono-hydrate as a white brittle solid: αD26.6° C.=40°; elemental analysis, calc: C (63.99); H (6.18); N (11.19), H2O (4.8 weight %), found: C (64.23); H (6.27); N (11.18); H2O (4.48). 1H NMR (CDCl3, 400 MHz): δ 8.46 (d, J=2 Hz, 1H); 8.35 (dd, J=4.8 Hz, J=2 Hz, 1 H); 7.56-7.61 (m, 1H); 7.08-7.19 (m, 3H); 6.87-6.95 (m, 1H), 6.32 (d, J=8.1 Hz, 1H); 3.89-3.95 (m, 1H); 3.00-3.12 (m, 1H), 2.84-2.99 (m, 4H); 2.68-2.84 (m, 2H); 1.98-2.04 (m, 1H); 1.83 (s, 2H); 1.58-1.79 (m, 3H); 1.44-1.54 (m, 1H). Decomposes at 240° C.

reactant | 3,5-difluorobenzamide | 2.80 mmol, 5 mL, 993 mg | FC=1C=C(C(=O)N)C=C(C1)F | C7H5F2NO
reactant | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methyl tert-butyl ether | 10-15 mL | C(C)(C)(C)OC | C5H12O
product | 3,5-difluorobenzamide mono-hydrate | O.FC=1C=C(C(=O)N)C=C(C1)F | InChI=1S/C7H5F2NO.H2O/c8-5-1-4(7(10)11)2-6(9)3-5;/h1-3H,(H2,10,11);1H2
